US06656448B1
A. Preparation of [3-(2-Benzyloxycarbonylamino-acetylamino)-propyl]-carbamic Acid tert-Butyl Ester
To 3 grams of (3-Amino-propyl)-carbamic acid tert-butyl ester in 15 ml of dimethylformamide was added 3 grams of N-benzyloxycarbonyl glycine, 4.7 mL of N-methylmorpholine and 5.06 grams of TBTU. The reaction was cooled to 0 degrees C. for 30 minutes then allowed to stir at room temperature overnight. The volatiles were removed under reduced pressure and the resulting material was dissolved in ethyl acetate and washed with 10% citric acid. The aqueous was extracted an additional two times with ethyl acetate, combined and washed with water, saturated aqueous sodium bicarbonate, water, brine and dried over MgSO4. The volatiles were removed under reduced pressure and the resulting material was crystallized from EtOAc/hexane affording 4.55 grams of the desired product as a tan solid. LRMS found 388.3=(M+Na)+

reactant | (3-Amino-propyl)-carbamic acid tert-butyl ester | 3 grams | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | N-benzyloxycarbonyl glycine | 3 grams | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | N-methylmorpholine | 4.7 mL | CN1CCOCC1 | C5H11NO
reactant | TBTU | 5.06 grams | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | [3-(2-Benzyloxycarbonylamino-acetylamino)-propyl]-carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(NCCCNC(CNC(=O)OCC1=CC=CC=C1)=O)=O | C18H27N3O5
